US07157468B2
2-Methyl-2H-[2,6]naphthyridin-1-one
Sodium hydride (60% in mineral oil, 328 mg, 8.2 mmol) was added portionwise to a suspension of 2H-[2,6]naphthyridin-1-one (1 g, 2.05 mmol) (see reference J. Het. Chem. 1981, 18(7), 1349) in anhydrous N,N-dimethylformamide (25 ml) under a nitrogen atmosphere and the mixture was stirred at room temperature for 1 hour. lodomethane (510 μl, 8.2 mmol) was added and the mixture was stirred for 18 hours. The reaction mixture was evaporated under reduced pressure and the residue was partitioned between dichloromethane (50 ml) and water (20 ml). The aqueous phase was extracted with dichloromethane (2×30 ml) and the combined organic layers were dried over magnesium sulphate and evaporated under reduced pressure. The residue was purified by chromatography on silica gel using methanol in dichloromethane (gradient from 2:98 to 5:95) to give the title compound (750 mg).

reactant | Sodium hydride | 8.2 mmol, 328 mg | [H-].[Na+]
reactant | 2H-[2,6]naphthyridin-1-one | 2.05 mmol, 1 g | C1(NC=CC2=CN=CC=C12)=O | C8H6N2O
reactant | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 2-Methyl-2H-[2,6]naphthyridin-1-one | 750 mg | CN1C(C2=CC=NC=C2C=C1)=O | C9H8N2O
